US04436726
Starting from 3-hexadecanoyloxyoctadecanoic acid (1 g) prepared by the method described in Preparation 2 and L-phenylalanine (1 g), N-(3-hexadecanoyloxyoctadecanoyl)-L-phenylalanine (500 mg) was obtained as powders according to a similar manner to that of Example 6.

reactant | 3-hexadecanoyloxyoctadecanoic acid | 1 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)O)CCCCCCCCCCCCCCC | C34H66O4
reactant | L-phenylalanine | 1 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
product | N-(3-hexadecanoyloxyoctadecanoyl)-L-phenylalanine | 500 mg | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)CCCCCCCCCCCCCCC | C43H75NO5
